US04061647
4-(2,4-Dichloro-5-sulfamoylphenyl)-3-methyl-2-(2-phenylethylimino)-1,3-thiazolidine-4-ol-hydrobromide
was obtained in a manner analogous to the method described in Example 10 from 3.5 g of 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone and 2 g of 1-methyl-3-(2-phenylethyl)-thiourea. M.p. 164°-165° C (decomposition)

reactant | 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone | 3.5 g | BrCC(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6BrCl2NO3S
reactant | 1-methyl-3-(2-phenylethyl)-thiourea | 2 g | CNC(=S)NCCC1=CC=CC=C1 | C10H14N2S
product | 4-(2,4-Dichloro-5-sulfamoylphenyl)-3-methyl-2-(2-phenylethylimino)-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)C1(N(C(SC1)=NCCC1=CC=CC=C1)C)O | InChI=1S/C18H19Cl2N3O3S2.BrH/c1-23-17(22-8-7-12-5-3-2-4-6-12)27-11-18(23,24)13-9-16(28(21,25)26)15(20)10-14(13)19;/h2-6,9-10,24H,7-8,11H2,1H3,(H2,21,25,26);1H
